US06492355B1
2-Chloro-5-(piperidin-4-ylsulfonyl)-N-(tricyclo[3.3.1.13,7]dec1-ylmethyl)-benzamide, hydrochloride salt
m-Chloroperoxybenzoic acid (0.30 g) was added to a solution of 2-chloro-5-(piperidin-4-ylsulfinyl)-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (0.30 g) in dichloromethane (10 ml). After 2 h calcium hydroxide (170 mg) was added and 30 min. later the salts removed by filtration. The filtrate was concentrated under reduced pressure to give a residue which was purified by silica gel chromatography (eluting with 0-2% ethanol in dichloromethane). The residue was dissolved in methanol (5 ml) and hydrochloric acid (0.25 ml of a 4N solution in dioxane) was added. After stirring at room temperature for 14 h, the solution was concentrated under reduced pressure and triturated with diethyl ether to yield the title compound (0.03 g).

reactant | m-Chloroperoxybenzoic acid | 0.30 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-chloro-5-(piperidin-4-ylsulfinyl)-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.30 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)S(=O)C1CCNCC1 | C23H31ClN2O2S
reactant | calcium hydroxide | 170 mg | [OH-].[Ca+2].[OH-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Chloro-5-(piperidin-4-ylsulfonyl)-N-(tricyclo[3.3.1.13,7]dec1-ylmethyl)-benzamide, hydrochloride salt | 0.03 g | Cl.ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)S(=O)(=O)C1CCNCC1 | InChI=1S/C23H31ClN2O3S.ClH/c24-21-2-1-19(30(28,29)18-3-5-25-6-4-18)10-20(21)22(27)26-14-23-11-15-7-16(12-23)9-17(8-15)13-23;/h1-2,10,15-18,25H,3-9,11-14H2,(H,26,27);1H
